US06489479B1
47.3 g (250 mmol) of (S)-2-tert.-butoxycarbonylamino-propionic acid (Fluka) were dissolved in 560 ml of ethyl acetate (Fluka) while stirring and under argon, cooled to 0-5° C. and treated with 31.0 ml (250 mmol) of pivaloyl chloride (d=98; Fluka). The light yellowish solution was treated dropwise within 30 minutes with 35.0 ml (250 mmol) of triethylamine (d=0.726; Fluka), with the temperature being held in the range of 0-5° C. A white suspension formed. The white precipitate was filtered off through a pre-cooled, sintered glass filter (G3) and the filter cake was washed with 140 ml of cold ethyl acetate (0 to 5° C.). To the combined filtrates, a light yellow solution, were added 55.9 g (17. HCl; 250 mmol) of ethyl (piperidin-4-yloxy)-acetate hydrochloride and 66.6 g of K3PO4.3H2O (250 mmol; Merck). The white suspension was treated with 500 ml of deionised water at 5 to 10° C. under argon and while stirring vigorously, with the temperature rising to 20° C. The colourless two-phase system was stirred at 20 to 25° C. for two hours. The aqueous phase was separated and the organic phase was washed with 500 ml of a 1M sodium bicarbonate solution. The organic phase was dried over about 50 g of sodium sulphate, filtered and the filter cake was washed with about 100 ml of ethyl acetate. The combined filtrates were evaporated in a rotary evaporator at 50°/20 mbar, giving 85.5 g (95 wt. %) of ethyl (S)-[1-(2-tert.-butoxycarbonylamino-propionyl)-piperidin-4-yloxy]-acetate as a crude product in the form of a clear, yellowish oil (HPLC analysis: 88.9% (area).

reactant | (S)-2-tert.-butoxycarbonylamino-propionic acid | 250 mmol, 47.3 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
reactant | pivaloyl chloride | 250 mmol, 31.0 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | triethylamine | 250 mmol, 35.0 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl (piperidin-4-yloxy)-acetate hydrochloride | 250 mmol, 55.9 g | Cl.N1CCC(CC1)OCC(=O)OCC
solvent | ethyl acetate | 560 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 500 ml | O | H2O
product | ethyl (S)-[1-(2-tert.-butoxycarbonylamino-propionyl)-piperidin-4-yloxy]-acetate | 85.5 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1CCC(CC1)OCC(=O)OCC)C | C17H30N2O6
